US05206020
Synthesis of 3-Chloro-2-Hydroxypropyl Hexadecyl Ether
Hexadecanol (10.0 g, 0.0412 mole) and stannic chloride (0.04 g, 0.16 mmoles) were heated to 60° C. Epichlorohydrin (3.82 g, 0.0412 moles (was added over 1 hour and the reaction conditions kept constant for another hour. The hot product was extracted with 5% aqueous HCl and ether. The ether was concentrated to a white solid product (yield=75%).

reactant | Hexadecanol | 0.0412 mole, 10.0 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | Epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | ether | CCOCC | C4H10O
product | 3-Chloro-2-Hydroxypropyl Hexadecyl Ether | yield=75% | C(CCCCCCCCCCCCCCC)OCC(CCl)O | C19H39ClO2
